US08975277B2
(R)-4-[5-(1-Methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-2,3-dihydro-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid tert-butyl ester
A mixture of (R)-4-(5-chloro-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester (0.40 g), 1-methanesulfonyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,2,3,6-tetrahydro-pyridine (0.38 g), 2 M aqueous Na2CO3 solution (1.3 mL), and 1,4-dioxane (8 mL) is sparged with argon for 5 min. Tetrakis(triphenylphosphine)palladium(0) (0.10 g) is added and the mixture is stirred in a microwave oven at 170° C. for 1 h. After cooling to room temperature, water is added and the resulting mixture is extracted with ethyl acetate. The combined extract is washed with brine, dried (Na2SO4), and concentrated. The residue is chromatographed on silica gel (cyclohexane/ethyl acetate 3:7→0:1) to give the title compound. Mass spectrum (ESI+): m/z=464 [M+H]+.

reactant | (R)-4-(5-chloro-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | 0.40 g | C(C)(C)(C)OC(=O)N1CCC(CC1)[C@H]1CC=2C(=CN=C(C2)Cl)O1 | C17H23ClN2O3
reactant | 1-methanesulfonyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,2,3,6-tetrahydro-pyridine | 0.38 g | CS(=O)(=O)N1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C12H22BNO4S
reactant | Na2CO3 | 2 M, 1.3 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | (R)-4-[5-(1-Methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-2,3-dihydro-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)[C@H]1CC=2C(=CN=C(C2)C=2CCN(CC2)S(=O)(=O)C)O1 | C23H33N3O5S
